US04143046
Phenoxyacetylmethyltriphenylphosphonium Chloride
1-Chloro-3-phenoxyacetone (13 g, 0.07 mole) dissolved in 20 ml chloroform was mixed with a solution of triphenylphosphine (19.7 g, 1 eq) in 30 ml chloroform at room temperature. The mixture was swirled for 5 minutes and benzene (20 ml) was added. A white crystalline compound appeared when most of the solvents had been evaporated. The product was collected by suction and washed with benzene. Second and third crops were collected by evaporation of the washings. The total yield was 23 g (73%); sublimation without melting at 90°; ir (KBr, cm-1) 3450-3280, 2770, 1720, 1595, 1585, 1485, 1435, 1220, 1110, 1030; nmr (DCCl3, ppm) 8.20-6.80 (m, 22H), 5.30 (br, 2H).

reactant | 1-Chloro-3-phenoxyacetone | 0.07 mole, 13 g | ClCC(=O)COC1=CC=CC=C1 | C9H9ClO2
reactant | triphenylphosphine | 19.7 g, 1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | Phenoxyacetylmethyltriphenylphosphonium Chloride | [Cl-].O(C1=CC=CC=C1)CC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H24O2P.ClH/c28-23(21-29-24-13-5-1-6-14-24)22-30(25-15-7-2-8-16-25,26-17-9-3-10-18-26)27-19-11-4-12-20-27;/h1-20H,21-22H2;1H/q+1;/p-1
